US07494992B2
Preparation 122: ethyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate
1,2,3,4-Tetrahydroisoquinoline-3-carboxylic acid camphor sulphonic acid salt (Preparation 120, 6 g, 17.2 mmol) was dissolved in ethanol (140 ml) and saturated with hydrogen chloride (gas). The reaction mixture was heated under reflux for 18 h before concentrating in vacuo. The crude residue was dissolved in dichloromethane (150 ml) and washed with sodium hydrogen carbonate (150 ml). The organic layer was collected and washed again with sodium hydrogen carbonate (2×100 ml) before drying (Na2SO4) and concentrating in vacuo to give the title compound as a yellow oil (3.64 g, 100%).

reactant | 1,2,3,4-Tetrahydroisoquinoline-3-carboxylic acid camphor sulphonic acid salt | 17.2 mmol, 6 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.C2NC(CC1=CC=CC=C21)C(=O)O
solvent | ethanol | 140 ml | C(C)O | C2H6O
solvent | hydrogen chloride | Cl | ClH
product | ethyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 3.64 g, 100% | C1NC(CC2=CC=CC=C12)C(=O)OCC | C12H15NO2
